US08859574B2
To a mixture of 2,5-dichloro-N-(5-methyl-1H-pyrazol-3-yl)pyrimidin-4-amine (2.44 g, 10 mmol) and 4-toluenesulfonic acid monohydrate (1.9 g, 10 mmol) in THF (200 mL), was added DHP (4.25 g, 50 mmol). After stirring overnight, the reaction turned clear. After concentration, the residue was dissolved in ethyl acetate and washed with Na2CO3 saturated aqueous solution. The organic layer was then washed with brine, dried over sodium sulfate and concentrated in vacuo to afford 2,5-Dichloro-N-(5-methyl-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-3-yl)pyrimidin-4-amine as light yellow solid, which was used in subsequent reactions without further purification; ESMS m/z 244 (M−THP+H+); TLC Rf=0.6 (Silica; 1:1 ethyl acetate/hexanes; starting material Rf=0.2).

reactant | 2,5-dichloro-N-(5-methyl-1H-pyrazol-3-yl)pyrimidin-4-amine | 10 mmol, 2.44 g | ClC1=NC=C(C(=N1)NC1=NNC(=C1)C)Cl | C8H7Cl2N5
reactant | 4-toluenesulfonic acid monohydrate | 10 mmol, 1.9 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | DHP | 50 mmol, 4.25 g | C1CC=COC1 | C5H8O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 2,5-Dichloro-N-(5-methyl-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-3-yl)pyrimidin-4-amine | ClC1=NC=C(C(=N1)NC1=NN(C(=C1)C)C1OCCCC1)Cl | C13H15Cl2N5O
